US06720338B2
methyl O-benzyl-N-(tert-butoxycarbonyl)serinate
A mixture of BOC-DL-Ser-OMe (434 mg, 2.0 mmol), benzyl bromide (513 mg, 3.0 mmol), and silver oxide (695 mg, 3.0 mmol) in dichloromethane (10 mL) at room temperature was stirred for 2 days, filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 20% ethyl acetate/hexanes to provide the desired product. MS (ESI(−)) m/e 308 (M−H)−.

reactant | BOC-DL-Ser-OMe | 2.0 mmol, 434 mg | N(C(CO)C(=O)OC)C(=O)OC(C)(C)C | C9H17NO5
reactant | benzyl bromide | 3.0 mmol, 513 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | silver oxide | 3.0 mmol, 695 mg | [Ag]=O
product | methyl O-benzyl-N-(tert-butoxycarbonyl)serinate | C(C1=CC=CC=C1)OC[C@H](NC(=O)OC(C)(C)C)C(=O)OC | C16H23NO5
